US08106215B2
5-(3-Chloro-phenyl)-2-methyl-thiazole-4-carboxylic acid methyl ester
prepared by reaction of 3-chloro-3-(3-chloro-phenyl)-2-oxo-propionic acid methyl ester with thioacetamide. LC-MS: tR=0.95 min; [M+H]+=268.0.

reactant | 3-chloro-3-(3-chloro-phenyl)-2-oxo-propionic acid methyl ester | COC(C(C(C1=CC(=CC=C1)Cl)Cl)=O)=O | C10H8Cl2O3
reactant | thioacetamide | C(C)(=S)N | C2H5NS
product | 5-(3-Chloro-phenyl)-2-methyl-thiazole-4-carboxylic acid methyl ester | COC(=O)C=1N=C(SC1C1=CC(=CC=C1)Cl)C | C12H10ClNO2S
